US05639887
4-[4-Chloro-1-[(4-methylphenyl]thio]butyl]-1,2-dimethoxybenzene
To a solution of 13.72 g of 1,2-dimethoxy-4-[[(4-methylphenyl)thio]methyl]benzene and a crystal of phenanthroline in 250 mL of tetrahydrofuran (dried over 3A sieves), under nitrogen at -78° C., is added 21.0 mL of 2.5M n-butyl lithium/hexane via a syringe. After 10 minutes, the brown solution is warmed to 0° C. for 1 hour, then it is recooled to -78° C. and 8.02 mL of 1-bromo-3-chloropropane is added via syringe. The reaction is permitted to warm to room temperature overnight. To the now light yellow reaction mixture is added 10 mL of ethyl acetate and the resulting solution concentrated in vacuo. The residue is partitioned between ethyl acetate and water, the organic phase dried (sodium sulfate) and concentrated in yacuo to a yellow oil. Purification by chromatography on silica gel with gradient elution progressing from hexane to chloroform to methyl alcohol, repeated three times, affords 16.47 g of the desired product as a yellow oil.

reactant | 1,2-dimethoxy-4-[[(4-methylphenyl)thio]methyl]benzene | 13.72 g | COC1=C(C=C(C=C1)CSC1=CC=C(C=C1)C)OC | C16H18O2S
reactant | phenanthroline | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | n-butyl lithium hexane | 2.5M, 21.0 mL | C(CCC)[Li].CCCCCC
reactant | 1-bromo-3-chloropropane | 8.02 mL | BrCCCCl | C3H6BrCl
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-[4-Chloro-1-[(4-methylphenyl]thio]butyl]-1,2-dimethoxybenzene | 16.47 g | ClCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C19H23ClO2S
